US04484007
1-(p-Isopropylphenyl)-4,8-dimethyl-8-methoxynonane
The reaction mixture containing 1-(p-isopropylphenyl)-4,8-dimethyl-8-methoxynonan-1-ol as obtained above (Example III) (9.9 g) was submitted to hydrogenolysis by dissolution in an acidic lower alkanol, e.g., methanol (50 ml) and conc. HCl (1 ml) and was then hydrogenated with H2 in the presence of 5% Pd-C (0.4 g). After uptake of hydrogen ceased, the catalyst was removed by filtration with the aid of a filter aid (Celite). The filtrate was washed with aq. NaHCO3, brine and dried over MgSO4. Evaporation of solvent left a yellow oil (8.4 g). Distillation gave the desired product (1-(p-isopropylphenyl)-4,8-dimethyl-8-methoxynonane) (2.8 g, bp. 120°-125°/0.05 torr). The NMR spectrum showed the following signals 1.08 (6H, s), 1.22 (6H, d, J.=6.5 Hz): (CDCl3) 0.88 (3H, d, J=6.5 Hz), 2.60 (2H, t, J=7 Hz), 2.90 (1H, m), 3.14 (3H, s), 7.10 (4H, s).

reactant | 1-(p-isopropylphenyl)-4,8-dimethyl-8-methoxynonan-1-ol | C(C)(C)C1=CC=C(C=C1)C(CCC(CCCC(C)(OC)C)C)O | C21H36O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
solvent | HCl | 1 ml | Cl | ClH
catalyst | Pd-C | 0.4 g | [Pd] | Pd
product | 1-(p-Isopropylphenyl)-4,8-dimethyl-8-methoxynonane | 2.8 g | C(C)(C)C1=CC=C(C=C1)CCCC(CCCC(C)(OC)C)C | C21H36O
